US05008270
3-(2-Pyridinyl)propionitrile is prepared in this example using the procedure of V. Boekelheide, et al., J. Am. Chem. Soc., 75, 3243 (1953). A solution of potassium cyanide (83.74 g) in water (160 ml) is added to a solution of freshly distilled 2-vinylpyridine (67.59 g) in acetic anhydrid (131.30 g) with the rate of addition adjusted to maintain gentle refluxing. When the addition is complete, the resulting dark red mixture is heated for about 17 hours at 105° C. in an oil bath with vigorous stirring. The cooled reaction mixture is adjusted to pH 8 with a saturated Na2CO3 solution. The mixture is extracted with CHCl3 (4×150 ml), washed with water, dried with Na2SO4, and evaporated to a dark viscous oil. The oil is fractionally distilled in vacuo through a Vigreaux column. After a small forerun containing 2-vinylpyridine (0.35 g), the desired 3-(2-pyridinyl)propionitrile is collected as a clear, fluorescent yellow-green, viscous oil: yield 59.8 g; 70.4%; bp 86° C. at 1.0 mm Hg.

reactant | potassium cyanide | 83.74 g | [C-]#N.[K+]
reactant | 2-vinylpyridine | 67.59 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 160 ml | O | H2O
solvent | acetic anhydrid | 131.30 g | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(2-Pyridinyl)propionitrile | N1=C(C=CC=C1)CCC#N | C8H8N2
